data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2979,3331,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[N-:8][NH+:9]=[C:10]([CH3:11])[C:12]#[N:13]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:8]([C:6]([CH3:5])=[O:7])[NH:9][C:10]1([CH3:11])[C:12]#[N:13],water,298.15,27.00727189811533,-17.702313755141784
4113,4708,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][C-:12]([C:13](=[O:14])[O:15][CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:12]([C:13](=[O:14])[O:15][CH3:16])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:11]=[CH:10]1,water,298.15,11.407094629394148,-33.50726952059814
1265,1383,[CH3:10][O:11][C:12](=[O:13])[CH-:14][N+:15]([CH3:16])=[C:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([F:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:17]([C:18](=[O:19])[O:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[N:15]([CH3:16])[CH:14]2[C:12]([O:11][CH3:10])=[O:13],water,298.15,25.75264231374623,-35.661030946784614
1330,1459,[CH3:15][CH:16]=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][NH:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[NH:8][CH3:9])=[C:10]([O:11][CH3:12])[O:13][CH3:14]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]([O:11][CH3:12])([O:13][CH3:14])[CH:16]([CH3:15])[N:17]([CH3:18])[C:19]1([C:20]#[N:21])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,36.975070608848064,0.3956451322793641
1552,1718,[CH3:18][O:19][C:20](=[O:21])[C-:22]([C:23]#[N:24])[NH+:25]=[CH:26][C:27]#[N:28].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[CH:26]([C:27]#[N:28])[NH:25][C:22]2([C:20]([O:19][CH3:18])=[O:21])[C:23]#[N:24],water,298.15,25.854265749439264,-12.108453965616
2350,2609,[CH3:17][NH:18][C:19](=[O:20])[C:21](=[NH+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27])[C:28](=[O:29])[NH:30][CH3:31].[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([F:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([F:11])([Cl:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:23]([CH3:24])([C:25]([CH3:26])=[O:27])[NH:22][C:21]2([C:19]([NH:18][CH3:17])=[O:20])[C:28](=[O:29])[NH:30][CH3:31],water,298.15,19.56918862018892,-34.26667201838729
2857,3175,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][O:22][C:23](=[O:24])[C-:25]([C:26]([CH3:27])=[O:28])[N+:29]([CH3:30])=[C:31]([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([C:14]([CH3:15])=[O:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:25]([C:23]([O:22][CH3:21])=[O:24])([C:26]([CH3:27])=[O:28])[N:29]([CH3:30])[C:31]2([c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1)[c:38]1[cH:39][cH:40][cH:41][cH:42][cH:43]1,water,298.15,39.67714792377095,-16.765319132661634
2237,2482,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][O:26][C:27](=[O:28])[C:29]#[N+:30][NH-:31]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[c:10]2[c:11]([c:29]([C:27]([O:26][CH3:25])=[O:28])[n:30][nH:31]2)[C:12]([C:13](=[O:14])[NH:15][CH3:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1,water,298.15,12.541060709933063,-83.89203186684244
2950,3293,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH:5]#[N+:6][C-:7]([CH3:8])[C:9](=[O:10])[O:11][CH3:12]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:7]([CH3:8])([C:9](=[O:10])[O:11][CH3:12])[N:6]=[CH:5]1,water,298.15,16.883255366621853,-43.92641946419486
3005,3357,[CH2:1]=[CH2:2].[CH3:3][C:4](=[O:5])[C:6]#[N+:7][N-:8][c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1>>[CH2:1]1[CH2:2][N:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[N:7]=[C:6]1[C:4]([CH3:3])=[O:5],water,298.15,13.57825701724847,-50.52141724232977
1183,1287,[CH3:14][C:15](=[O:16])[C:17](=[NH+:18][N-:19][C:20]#[N:21])[C:22]([CH3:23])=[O:24].[N:1]#[C:2][C:3]1([Cl:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([Cl:4])[C:5]2=[C:6]([C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[N:19]([C:20]#[N:21])[NH:18][C:17]2([C:15]([CH3:14])=[O:16])[C:22]([CH3:23])=[O:24],water,298.15,19.28759109241913,-33.788559789277684
4082,4675,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[N-:19][NH+:20]=[NH:21]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:19]([C:17]([O:16][CH3:15])=[O:18])[NH:20][NH:21]2,water,298.15,30.11940175661436,6.046697748398426
